US08461167B2
N-[4-({4-[(dimethylphosphoryl)methyl]piperazin-1-yl}methyl)-5-(trifluoromethyl)phenyl]-3-Iodo-4-methylbenzamide
4-({4-[(dimethylphosphoryl)methyl]piperazin-1-yl}methyl)-5-(trifluoromethyl)aniline (yellow solid, 3.66 mmole, 1.0 eq.) was dissolved in 15 mL anhydrous dichloromethane. 3-Iodo-4-methylbenzoyl chloride (1.58 grams, 5.64 mmole, 1.54 eq.) was added in one portion. At 0° C., under N2 protection, diisopropylethyl amine (2.4 mL, 14.0 mmole, 3.8 eq.) was added dropwise in 3 minutes. The reaction mixture was stirred at 0° C. under N2 for 30 minutes. It was then evaporated to remove most of the volatile components. The residue was purified via column chromatography (elution sequence: 100% dichloromethane—1% MeOH/dichloromethane/sat.NH3—10% MeOH/dichloromethane/sat.NH3), 40 mg of light yellow color oil was obtained and identified as the desire iodide. MS (LC/MS): 592.3 [M-].

reactant | 4-({4-[(dimethylphosphoryl)methyl]piperazin-1-yl}methyl)-5-(trifluoromethyl)aniline | 3.66 mmole, 1.0 eq. | CP(=O)(C)CN1CCN(CC1)CC1=CC=C(N)C=C1C(F)(F)F | C15H23F3N3OP
reactant | 3-Iodo-4-methylbenzoyl chloride | 5.64 mmole, 1.58 grams, 1.54 eq. | IC=1C=C(C(=O)Cl)C=CC1C | C8H6ClIO
reactant | diisopropylethyl amine | 14.0 mmole, 2.4 mL, 3.8 eq. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | iodide | [I-]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-[4-({4-[(dimethylphosphoryl)methyl]piperazin-1-yl}methyl)-5-(trifluoromethyl)phenyl]-3-Iodo-4-methylbenzamide | CP(=O)(C)CN1CCN(CC1)CC1=CC=C(C=C1C(F)(F)F)NC(C1=CC(=C(C=C1)C)I)=O | C23H28F3IN3O2P
